US07053089B2
[R,R] {4-[(3-Fluoro-pyridin-2-ylamino)-methyl]-piperidin-1-yl}-(2-phenyl-cyclopropyl)-methanone
Prepared from 4-[(3-fluoro-pyridin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester by hydrogenolysis of the benzyloxycarbonyl group followed by EDC, HOBt coupling with [R,R] trans-2-phenyl-1-cyclopropanecarboxylic acid in DMF in the usual manner such as described previously in EXAMPLE 143 above:

reactant | 4-[(3-fluoro-pyridin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=CC=C1F | C19H22FN3O2
reactant | EDC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | CN(C)C=O | C3H7NO
product | [R,R] {4-[(3-Fluoro-pyridin-2-ylamino)-methyl]-piperidin-1-yl}-(2-phenyl-cyclopropyl)-methanone | FC=1C(=NC=CC1)NCC1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C21H24FN3O
